US09212154B2
In the same manner as in Reference Example 2, L-2-methylthiazolidine-2,4-dicarboxylic acid 2-methyl ester was synthesized from L-cysteine and pyruvic acid methyl ester, and the compound was subjected to acetylation with acetyl chloride in the presence of potassium carbonate to give N-acetyl-2-methylthiazolidine-2,4-dicarboxylic acid 2-methyl ester (with the ratio of cis form:trans form of about 44:56 as confirmed by NMR) as a white solid (80.2%). 1H-NMR (DMSO-d6,400 MHz): δ;

reactant | L-cysteine | N[C@@H](CS)C(=O)O | C3H7NO2S
reactant | pyruvic acid methyl ester | COC(C(=O)C)=O | C4H6O3
reactant | acetyl chloride | C(C)(=O)Cl | C2H3ClO
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
product | N-acetyl-2-methylthiazolidine-2,4-dicarboxylic acid 2-methyl ester | COC(=O)C1(SCC(N1C(C)=O)C(=O)O)C | C9H13NO5S
